Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Right arm and leg weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ yo RH male with ___ prior lacunar stroke (___),
HTN, prostate CA who presents with right and leg heaviness.
Patient last well 10:30 pm yesterday before going to bed. Awoke
this AM with feeling of heaviness and numbness of right arm and
leg. He was able to ambulate but may have been dragging leg
slightly. His daughter noted that he was more clumsy using his
spoon (with right hand) when trying to eat cereal. She reports
patient tried shaking his right hand complaining of numbness and
she assumed he had slept wrong. He reports that he ate a 
sandwich
for lunch with his left hand and otherwise had no difficulties
chewing, swallowing foods. No noted dysarthria. Patient reports
that symptoms improved over the course of the day and he was 
able
to go gambling from 8am-6pm. When he returned , he remarked that
he still had some residual heaviness in his right arm and family
became alarmed. He was brought to ___ for further evaluation. 

 
Past Medical History:
-HTN
-s/p TURP 
-___ prostate CA
-s/p inguinal hernia
-h/o strokes/TIA-seen by Neurology in ___ for right arm
weakness and -dysmetria (CTH ___ shows evidence old lacunes in
left putamen and bilat subinsular location) and patient started
on ASA 81. TTE and carotid US nml. He returned in ___ for
right face/arm weakness and dizziness with no change from prior
HCT. It was rec he start Plavix and ASA 81. Patient has been 
only
taking Plavix though. 
-macular degeneration
-cataracts

 
Social History:
___
Family History:
One sister died of stroke age ___, another sister had
stroke at age ___. 

 
Physical Exam:
O: Tm: AF  BP:150 /94      HR: 100    
     RR: 20 O2Sat100% RA
Gen:  WD/WN, comfortable, NAD.
HEENT:  NC/AT. Anicteric. MMM.
Neck:  Supple. No carotid bruits.
Lungs: CTA bilaterally. No R/R/W.
Cardiac:  RRR. S1/S2. has soft systolic m. 
Abd:  Soft, NT, ND, +NABS. No rebound or guarding. No HSM.
Extrem: Warm and well-perfused. No C/C/E.
 
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Attention: Able to recite ___ backwards. 
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria per daughter or paraphasic errors.
No apraxia, no neglect. 
 
Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields are restricted given
cataracts/macular ___ but no gross field defect. Optic disc 
not
visualized
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Has right slight facial droop.
VIII: Hearing diminished to finger rub
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
 
Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout except ? ___ FE on
right. Has right PD.  Has slower finger taps on right compared 
to
left. Tends to orbit around right arm. 
 
Sensation: Intact to light touch, propioception, cold and
vibration bilaterally (toes ___ sec). 
 
Reflexes: B T Br Pa Ac
Right     ___  3  1
Left      ___  2  1
Grasp reflex absent. right toe wd and left down.  
Coordination: difficult to assess given MD but able to do finger
nose/hand ok, slightly clumsier alt hand movements on right. Ok
foot taps. 
Gait: deferred

 
Pertinent Results:
___ 11:50PM   CK(CPK)-229*
___:50PM   CK-MB-5 cTropnT-0.07*
___ 05:20PM   GLUCOSE-84 UREA N-42* CREAT-1.7* SODIUM-141 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-28 ANION GAP-11
___ 05:20PM   ALT(SGPT)-13 AST(SGOT)-24 CK(CPK)-198* ALK 
PHOS-59 TOT BILI-0.7
___ 05:20PM   ALBUMIN-3.7 CALCIUM-9.0 PHOSPHATE-2.5* 
MAGNESIUM-2.2
___ 05:20PM   WBC-4.8 RBC-3.70* HGB-11.5* HCT-34.4* MCV-93 
MCH-31.1 MCHC-33.4 RDW-13.1
___ 05:20PM   NEUTS-65.9 ___ MONOS-7.7 EOS-1.5 
BASOS-0.3
___ 05:20PM   PLT COUNT-204
___ 10:57PM   %HbA1c-5.9
___ 08:20PM   ___ PTT-23.7 ___
 
Brief Hospital Course:
Pt is a ___ yo RH male with ___ prior stroke and mild residual 
R-sided weakness, TIAs, HTN, s/p prostate CA, who presents with 
new onset right sided "heaviness". Symptoms noticed on waking up 
yesterday morning. However, did not experience much difficuty 
ambulating and able to go to by bus to casino and play. The 
heaviness persisted, prompting hospital visit. On exam, patient 
has mild R-NLF flattening, RUE levitation, normal strength b/l 
but reduced FFM on right. Speech at baseline per daughter and 
patient. Found to have new small cortical infarct involving left 
posterior frontal parietal lobe and tight L ICA at bifurcation 
on carotid doppler U/S (70-79% stenosis). Patient declined any 
surgical intervention including endovascular stenting. We held 
his antihypertensives to allow BPs to autoreg to SBP 200. His 
blood pressure has been on the low side and given that he has a 
tight carotid with recent stroke so we have held his Diovan and 
Norvasc. He will follow-up with Dr. ___ week and have his 
BP rechecked and reassess resuming his meds. 
Because his stroke occurred on Plavix, we have switched him to 
Aggrenox (tolerated this well in hospital without headache) and 
ASA (we elected the 81 mg dose rather than 325 given that he 
reports some prior bleed though no further info available after 
talking to PCP and daughter), as well we have started him on 
Simvastatin 40 Qday (AST/ALT nml). Hgb stable 11.5; reports 
recent normal colonoscopy. HbA1C 5.9%.

He also was found to have a UTI with Gram neg rods, final 
speciation and sensitivities pending. His Creat was elevated at 
1.8 and BUN 42 so he should have that followed. His troponins 
were mildly elevated 0.07, CPK 266, but his ECG and telemetry 
were unchanged. Cardiac Echo showed dilated LA, mild symmetric 
LVH, hyperdynamic EF 75%, otherwise nml. He should continue 
Bactrim to complete a 7-day course, we will call him if the 
final culture grows an organism resistant to this. He was 
cleared by ___ to be discharged home without services.

 
Medications on Admission:
All: NKDA

MEDICATIONS:
-actonel 35mg (no SIG)
-Casodex ___ PO QD
-Plavix 75mg PO QD
-Diovan 160/12.5  daily
-Noravsc 5mg daily
-Ca Citrate with Vit D 1 tab QD
-Ocuvite 1 tab daily

 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*4*
2. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
3. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day) as needed for stroke.
Disp:*60 Cap(s)* Refills:*4*
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*4*
5. Ocuvite     Tablet Sig: One (1) Tablet PO once a day.  
6. Calcium Citrate + D  Oral
7. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
8. Casodex ___ mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1)acute L parietal stroke
2)UTI

 
Discharge Condition:
clinically very well
screened by ___ and OT, no services needed.

 
Discharge Instructions:
You have had a small stroke due to narrowing of the blood vessel 
in your neck supplying the left side of your brain. An open 
surgery or intravascular stent was offered as possible treatment 
for this, but you declined these operations.
Because this occurred while on Plavix, you have been switched to 
a different medication called Aggrenox which you should take as 
precribed (it can cause mild headache at the beginning) and you 
should also take a daily baby aspirin along with this.
Your blood pressure has been on the low side so we have held 
your blood pressure medications Diovan and Norvasc. Please 
readress this when you see Dr. ___ week and have your 
blood pressure rechecked. Your kidney function was also abnormal 
so please follow this with Dr. ___.
Your heart enzymes were mildly elevated in your blood but your 
electrocardiograms were unchanged and there was no heart rhythm 
abnormality on telemetry recording. You had an ultrasound of 
your heart which showed some thickening of the left-sided 
chamber but otherwise normal.

Please call your primary care doctor or return to the Emergency 
Department for any worsening of your symptoms or new concerning 
symptoms for example weakness, numbness, headache, dizziness, 
problems with your vision, pain on urinating or incontinence.

You also have a urine infection for which you should complete 
the prescribed course of antibiotics.
 
Followup Instructions:
___